.SUBCKT BS250PLP 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 20.1E-12
Cgd1 2 4 57.1E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-2.3 W=7.6m L=2u KP=10.33u RD=4.014 RS=20m)
.MODEL MOST2 PMOS(VTO=2.43 W=7.6m L=2u KP=10.33u RS=20m)
.MODEL Dbody D(CJO=53.22E-12 VJ=0.5392 M=0.3583 IS=75.32E-15 N=1.016 RS=1.245
+              TT=86.56n BV=45 IBV=10u)
.ENDS
.SUBCKT BSH201 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 159e-12
Cgd1 6 4 148e-12
Cgd2 1 4 5e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 1.6
Rg 2 6 250
.MODEL MOST1 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=-1.91 Kp=9.27e-7
+                Rs=0 Rd=0 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08 
+                Eta=2e-5 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=3e12 Delta=0.1 Theta=0)
.MODEL MOST2 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=1.19 Kp=9.27e-7
+                Rs=1000 Rd=1000 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08
+                Eta=2e-5 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0 Delta=0.1 Theta=0)
.MODEL Dbody D(Is=1e-14 N=0.8 Rs=0.7 Ikf=1e3 Cjo=0 M=0.3 Vj=0.3
+                Bv=60 Ibv=10e-6 Tt=70e-9 Fc=0.5)
.MODEL Rtemp RES(TC1=5.225e-3 TC2=1.7e-5)
.ENDS
.SUBCKT BSH202 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 150e-12
Cgd1 6 4 122e-12
Cgd2 1 4 9e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 525e-3
Rg 2 6 170
.MODEL MOST1 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=-1.69 Kp=0.184e-5
+                Rs=0 Rd=0 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08 
+                Eta=2e-4 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=2.2e12 Delta=0.1 Theta=0)
.MODEL MOST2 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=1.86 Kp=0.184e-5
+                Rs=1000 Rd=1000 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08
+                Eta=2e-4 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0 Delta=0.1 Theta=0)
.MODEL Dbody D(Is=1e-14 N=0.7 Rs=550e-3 Ikf=1e3 Cjo=0 M=0.3 Vj=0.3
+                Bv=30 Ibv=10e-6 Tt=45e-9 Fc=0.5)
.MODEL Rtemp RES(TC1=4.6e-3 TC2=8e-6)
.ENDS
.SUBCKT BSH203 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 121e-12
Cgd1 6 4 298e-12
Cgd2 1 4 7e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 572e-3
Rg 2 6 150
.MODEL MOST1 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=-0.53 Kp=0.513e-5
+                Rs=0 Rd=0 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08 
+                Eta=1e-4 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0.64e12 Delta=0.1 Theta=0)
.MODEL MOST2 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=2.312 Kp=0.513e-5
+                Rs=1000 Rd=1000 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08
+                Eta=1e-4 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0 Delta=0.1 Theta=0)
.MODEL Dbody D(Is=1e-14 N=0.7 Rs=700e-3 Ikf=1e3 Cjo=0 M=0.3 Vj=0.3
+                Bv=30 Ibv=10e-6 Tt=35e-9 Fc=0.5)
.MODEL Rtemp RES(TC1=4.6e-3 TC2=8e-6)
.ENDS
.SUBCKT BSH205 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 150e-12
Cgd1 6 4 518e-12
Cgd2 1 4 38.3e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 230e-3
Rg 2 6 70
.MODEL MOST1 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=-0.597 Kp=0.848e-5
+                Rs=0 Rd=0 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08 
+                Eta=1e-4 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0.68e12 Delta=0.1 Theta=0)
.MODEL MOST2 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=3 Kp=0.848e-5
+                Rs=1000 Rd=1000 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08
+                Eta=1e-4 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0 Delta=0.1 Theta=0)
.MODEL Dbody D(Is=1e-14 N=0.7 Rs=370e-3 Ikf=1e3 Cjo=0 M=0.3 Vj=0.3
+                Bv=12 Ibv=10e-6 Tt=100e-9 Fc=0.5)
.MODEL Rtemp RES(TC1=4.15e-3 TC2=2e-6)
.ENDS
.SUBCKT BSH207 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 531e-12
Cgd1 6 4 1.6e-9
Cgd2 1 4 36.7e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 70e-3
Rg 2 6 30
.MODEL MOST1 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=-0.584 Kp=2.94e-5
+                Rs=0 Rd=0 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08 
+                Eta=1e-4 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0.42e12 Delta=0.1 Theta=0)
.MODEL MOST2 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=2 Kp=2.94e-5
+                Rs=1000 Rd=1000 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08
+                Eta=1e-4 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0 Delta=0.1 Theta=0)
.MODEL Dbody D(Is=1e-14 N=0.7 Rs=50e-3 Ikf=1e3 Cjo=0 M=0.3 Vj=0.3
+                Bv=12 Ibv=10e-6 Tt=105e-9 Fc=0.5)
.MODEL Rtemp RES(TC1=4.15e-3 TC2=2e-6)
.ENDS
.SUBCKT BSP225   10 20 40
* 10=drain  20=gate  40=source
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  4.75
RS  30  3  .251
RG  20  2  6.67
CGS  2  3  59P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  77P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  3N
.MODEL DMOS PMOS (LEVEL=3 THETA=80M VMAX=521K ETA=2m VTO=-1.8 KP=.195)
.MODEL DCGD D (CJO=77P VJ=.6 M=.68)
.MODEL DSUB D (IS=934P N=1.5 RS=2.11 BV=250 CJO=60.2P VJ=.8 M=.42 TT=90.1N)
.MODEL DLIM D (IS=100U)
.ENDS
.SUBCKT BSP230 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 41.3E-12
Cgd1 2 4 148.7E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 KP=10.31e-6 W=23e-3 L=2e-6 Rs=20e-3 VTO=-2.4 Rd=13.06)
.MODEL MOST2 PMOS(VTO=3.1 KP=10.31e-6 W=23e-3 L=2e-6 Rs=20e-3)
.MODEL Dbody D(Is=1.493E-14 N=0.9364 Rs=2 CJO=9.5E-11 VJ=0.9919 M=0.5697
+              TT=865.6E-9 BV=300 IBV=10E-6)
.ENDS
.SUBCKT BSP250 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 216e-12
Cgd1 6 4 529e-12
Cgd2 1 4 50e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 25e-3
Rg 2 6 50
.MODEL MOST1 PMOS(Level=3 Vto=-1.6 Kp=9.5e-8 Eta=1e-5 W=1 L=0.1e-6
+                Rs=0 Rd=0 Ld=0 Wd=0 Uo=500 Vmax=4e7 
+                Xj=5e-7 Kappa=0.08 Nfs=3e12 Theta=5e-3 Tpg=1
+                Cgbo=0 Cgso=0 Cgdo=0 Delta=0.1 Is=0)
.MODEL MOST2 PMOS(Level=3 Vto=3.8 Kp=9.5e-8 Eta=1e-5 W=1.5e-4 L=0.1e-6
+                Rs=0 Rd=0 Ld=0 Wd=0 Uo=500 Vmax=0 
+                Xj=0 Kappa=0.2 Nfs=0 Theta=0 Tpg=1
+                Cgbo=0 Cgso=0 Cgdo=0 Delta=0 Is=0)
.MODEL Dbody D(Is=1e-14 N=1 Rs=190e-3 Ikf=1e3 Cjo=0 M=0.5 Vj=0.4
+                Bv=30 Ibv=10e-6 Tt=230e-9)
.MODEL Rtemp RES(TC1=4.15e-3 TC2=2e-6)
.ENDS
.SUBCKT BSS192 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 32.3E-12
Cgd1 2 4 180E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.6 W=19m L=2u KP=10.61u RD=8.781 RS=20m)
.MODEL MOST2 PMOS(VTO=2.84 W=19m L=2u KP=10.61u RS=20m)
.MODEL Dbody D(CJO=115.9p VJ=0.6634 M=0.5435 IS=880.8f N=1.078 RS=2.034
+              TT=346.2n BV=200 IBV=10u)
.ENDS
.SUBCKT BSS84 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 20.6E-12
Cgd1 2 4 56.1E-12
Cgd2 1 4 3.5E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.7 W=12m L=2u KP=10.07u RD=3.952 RS=20m)
.MODEL MOST2 PMOS(VTO=3.25 W=12m L=2u KP=10.07u RS=20m)
.MODEL Dbody D(CJO=45.35p VJ=462.4m M=325.5m IS=442f N=1.051 RS=1.243
+              TT=105n BV=50 IBV=10u)
.ENDS
.SUBCKT PHC21025P 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 216e-12
Cgd1 6 4 529e-12
Cgd2 1 4 50e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 25e-3
Rg 2 6 50
.MODEL MOST1 PMOS(Level=3 Vto=-1.6 Kp=9.5e-8 Eta=1e-5 W=1 L=0.1e-6
+                Rs=0 Rd=0 Ld=0 Wd=0 Uo=500 Vmax=4e7 
+                Xj=5e-7 Kappa=0.08 Nfs=3e12 Theta=5e-3 Tpg=1
+                Cgbo=0 Cgso=0 Cgdo=0 Delta=0.1 Is=0)
.MODEL MOST2 PMOS(Level=3 Vto=3.8 Kp=9.5e-8 Eta=1e-5 W=1.5e-4 L=0.1e-6
+                Rs=0 Rd=0 Ld=0 Wd=0 Uo=500 Vmax=0 
+                Xj=0 Kappa=0.2 Nfs=0 Theta=0 Tpg=1
+                Cgbo=0 Cgso=0 Cgdo=0 Delta=0 Is=0)
.MODEL Dbody D(Is=1e-14 N=1 Rs=190e-3 Ikf=1e3 Cjo=0 M=0.5 Vj=0.4
+                Bv=30 Ibv=10e-6 Tt=230e-9)
.MODEL Rtemp RES(TC1=4.15e-3 TC2=2e-6)
.ENDS
.SUBCKT PHP225 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 216e-12
Cgd1 6 4 529e-12
Cgd2 1 4 50e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 25e-3
Rg 2 6 50
.MODEL MOST1 PMOS(Level=3 Vto=-1.6 Kp=9.5e-8 Eta=1e-5 W=1 L=0.1e-6
+                Rs=0 Rd=0 Ld=0 Wd=0 Uo=500 Vmax=4e7 
+                Xj=5e-7 Kappa=0.08 Nfs=3e12 Theta=5e-3 Tpg=1
+                Cgbo=0 Cgso=0 Cgdo=0 Delta=0.1 Is=0)
.MODEL MOST2 PMOS(Level=3 Vto=3.8 Kp=9.5e-8 Eta=1e-5 W=1.5e-4 L=0.1e-6
+                Rs=0 Rd=0 Ld=0 Wd=0 Uo=500 Vmax=0 
+                Xj=0 Kappa=0.2 Nfs=0 Theta=0 Tpg=1
+                Cgbo=0 Cgso=0 Cgdo=0 Delta=0 Is=0)
.MODEL Dbody D(Is=1e-14 N=1 Rs=190e-3 Ikf=1e3 Cjo=0 M=0.5 Vj=0.4
+                Bv=30 Ibv=10e-6 Tt=230e-9)
.MODEL Rtemp RES(TC1=4.15e-3 TC2=2e-6)
.ENDS
